US08476297B2
Step 1. 3-Fluoro-N-phenethyl-4-(trifluoromethyl)benzamide
To a 100-mL round-bottomed flask, 3-fluoro-4-(trifluoromethyl)benzoic acid (1.036 g, 4.98 mmol) and 2-phenylethanamine (0.700 mL, 5.53 mmol) were dissolved into 25 mL of DMF. Triethylamine (0.840 mL, 6.03 mmol) was added followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.955 g, 4.98 mmol) and 1-hydroxybenzotriazole (0.915 g, 5.97 mmol). The mixture was stirred for 28 h. The reaction mixture was poured into 80 mL of saturated aqueous sodium bicarbonate. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellowish solid. DCM was added to the crude product and the resulting solid was collected via filtration to afford the title compound as a white solid. The filtrate was concentrated and purified by silica gel chromatography (100% EtOAc) to afford another batch of the title compound as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.66 (t, J=7.45 Hz, 1H) 7.46-7.59 (m, 2H) 7.28-7.41 (m, 3H) 7.20-7.26 (m, 2H) 6.14 (br. s., 1H) 3.69-3.81 (m, 2H) 2.96 (t, J=6.87 Hz, 2H).

reactant | 3-fluoro-4-(trifluoromethyl)benzoic acid | 4.98 mmol, 1.036 g | FC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4F4O2
reactant | 2-phenylethanamine | 5.53 mmol, 0.700 mL | C1(=CC=CC=C1)CCN | C8H11N
reactant | Triethylamine | 6.03 mmol, 0.840 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4.98 mmol, 0.955 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 5.97 mmol, 0.915 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium bicarbonate | 80 mL | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-Fluoro-N-phenethyl-4-(trifluoromethyl)benzamide | FC=1C=C(C(=O)NCCC2=CC=CC=C2)C=CC1C(F)(F)F | C16H13F4NO
